US07985755B2
4-(2-Cyano-3-fluorophenyl)piperazine-1-carboxylic acid tert-butyl ester.
In a round bottom flask, sodium hydride (60%) (2.40 g; 60 mmol) was suspended in DMF (25 mL) and cooled in an ice water bath under nitrogen. 1-Boc-piperazine (9.53 g; 50.6 mmol) was added in small portions to the reaction mixture at 0° C. over 30 minutes. The mixture was allowed to stir at room temperature for 3 hours and the recooled to 0° C. 2,6-Difluorobenzonitrile (8.57 g; 60 mmol) was added to the reaction mixture in DMF (10 mL) over 45 minutes. The mixture was stirred at room temperature for 16 hours. The reaction mixture was poured in ice water (250 mL) and stirred. The solid was collected by vacuum filtration and washed with water. And then dried under vacuum to yield the title compound (11.65 g; 75% yield).

reactant | sodium hydride | 60 mmol, 2.40 g | [H-].[Na+]
reactant | 1-Boc-piperazine | 50.6 mmol, 9.53 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2,6-Difluorobenzonitrile | 60 mmol, 8.57 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(2-Cyano-3-fluorophenyl)piperazine-1-carboxylic acid tert-butyl ester | 11.65 g, 75% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)F)C#N | C16H20FN3O2
